US08748624B2
STEP C: ethyl 3-(5-(5-chloro-2-(1-((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)ethyl)phenyl)picolinamido)propanoate
N-(1-(2-bromo-4-chlorophenyl)ethyl)-4′-fluoro-[1,1′-biphenyl]-4-amine (138 mg, 0.34 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (142 mg, 0.41 mmol), Pd(dppf)Cl2 (37 mg, 0.05 mmol), and K2CO3 (108 g, 0.78 mmol) were dissolved in wet DMF (3 mL) and water (4 mL) and heated to 90° C. After 16 h the resulting mixture was cooled to room temperature, filtered through CELITE and the filtrate was diluted with EtOAc, washed with water and sat. aqueous NaHCO3. The organic layer was dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | N-(1-(2-bromo-4-chlorophenyl)ethyl)-4′-fluoro-[1,1′-biphenyl]-4-amine | 0.34 mmol, 138 mg | BrC1=C(C=CC(=C1)Cl)C(C)NC1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H16BrClFN
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 0.41 mmol, 142 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 0.78 mmol, 108 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 4 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 37 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(5-chloro-2-(1-((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)ethyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C(C)NC1=CC=C(C=C1)C1=CC=C(C=C1)F | C31H29ClFN3O3
